US03989749
To a solution of sodium hydroxide (0.4 g., excess) in water (50 ml.) and ethanol (50 ml.) is added 7-[N-(4-hydroxynonyl)cyanamido]heptanoic acid (1.5 g., 0.005 mole). The clear solution that is obtained is treated with 30% hydrogen peroxide (1.25 ml., excess). At the end of two hours the reaction mixture is poured into water (150 ml.), acidified with hydrochloric acid (dil.) and extracted with methylene chloride (3 × 75 ml.). The organic layer is washed with brine then dried over sodium sulfate. Evaporation of the solvent affords an oil which becomes solid on standing. The solid is crystallized from butyl chloride to give 7-[1-(4-hydroxynonyl)ureido]heptanoic acid. The yield is 1.4 g. (85%) of natural melting at 75°-76° C.

reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | 7-[N-(4-hydroxynonyl)cyanamido]heptanoic acid | 0.005 mole, 1.5 g | OC(CCCN(C#N)CCCCCCC(=O)O)CCCCC | C17H32N2O3
reactant | hydrogen peroxide | 1.25 ml | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 7-[1-(4-hydroxynonyl)ureido]heptanoic acid | OC(CCCN(C(=O)N)CCCCCCC(=O)O)CCCCC | C17H34N2O4
